US07393867B2
4H-Thieno[3,2-b]pyrrole-5-carboxylic acid amide
Add to 4H-thieno[3,2-b]pyrrole-5-carboxylic acid ethyl ester (1.74 gm, 8.9 mmol) and 7M ammonia in methanol (100 ml) in a steel bomb a chip of lithium hydroxide (0.1 gm). Seal the bomb and heat to 100° C. for 16 hrs. Cool to room temperature, and concentrate to remove the volatiles. Purify the crude product via flash chromatography (ISCO, silica cartridge, 40 gm, elute with methanol 0-5% in methylene chloride) to provide the title compound (560 mg, 38%) as an off-white solid.

reactant | 4H-thieno[3,2-b]pyrrole-5-carboxylic acid ethyl ester | 8.9 mmol, 1.74 gm | C(C)OC(=O)C1=CC2=C(N1)C=CS2 | C9H9NO2S
reactant | ammonia | 7M | N | H3N
reactant | lithium hydroxide | 0.1 gm | [OH-].[Li+]
solvent | methanol | 100 ml | CO | CH4O
product | 4H-Thieno[3,2-b]pyrrole-5-carboxylic acid amide | 560 mg, 38% | S1C=CC=2NC(=CC21)C(=O)N | C7H6N2OS
